US04271156
The procedure of Example 2 is followed but triethylammonium pyrid-2-yldithiocarbamate (54.0 g) and pent-1-en-3-one (17.0 g) in anhydrous acetonitrile (400 cc) are used as the starting materials at a maximum temperature of 5° C. The reaction is allowed to proceed for 3 hours at between 5° and 20° C. The crude product (45.0 g) is dissolved in a mixture of chloroform (200 cc) and ethyl acetate (50 cc). The solution is chromatographed on a column of diameter 6 cm, containing silica (0.063-0.2 mm; 600 g). Elution is carried out with a mixture of chloroform (400 cc) and ethyl acetate (100 cc), this eluate being discarded, and then with a mixture of chloroform (2,800 cc) and ethyl acetate (700 cc), this eluate being collected and evaporated to dryness under reduced pressure (20 mmHg) at 45° C. The product obtained (30.0 g) is purified by recrystallisation from a mixture of acetonitrile (30 cc) and diisopropyl ether (60 cc). 3-Oxopentyl pyrid-2-yldithiocarbamate (16.0 g) (structure determined by IR spectroscopy in petroleum jelly), which melts at 80° C., is obtained.

reactant | triethylammonium pyrid-2-yldithiocarbamate | 54.0 g | N1=C(C=CC=C1)NC([S-])=S.C(C)[NH+](CC)CC
reactant | pent-1-en-3-one | 17.0 g | C=CC(CC)=O | C5H8O
solvent | acetonitrile | 400 cc | C(C)#N | C2H3N
solvent | chloroform | 200 cc | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 50 cc | C(C)(=O)OCC | C4H8O2
product | 3-Oxopentyl pyrid-2-yldithiocarbamate | 16.0 g | N1=C(C=CC=C1)NC(SCCC(CC)=O)=S | C11H14N2OS2
